US07745630B2
Preparation 155: 4-[4-(4-Chlorophenyl)-5-methyl-4H-1,2,4-triazol-3-yl]benzonitrile
Trifluoroacetic acid (600 μL, 8.1 mmol) was added to a suspension of 4-chloroaniline (2.1 g, 16.2 mmol) and 4-(5-methyl-1,3,4-oxadiazol-2-yl)benzonitrile (Journal für Praktische Chemie, 1994; 336(8); 678-85) (3.0 g, 16.2 mmol) in tetrahydrofuran (50 mL) and the reaction was heated at reflux for 22 hours. The cooled mixture was partitioned between ethyl acetate (300 mL) and 20% aqueous 0.88 ammonia (120 mL), and then the layers were separated. The organic phase was dried over MgSO4 and evaporated under reduced pressure. The residue was triturated with ether and a minimum volume of ethyl acetate to afford the title compound as a white crystalline solid, 2.82 g.

reactant | Trifluoroacetic acid | 8.1 mmol, 600 μL | FC(C(=O)O)(F)F | C2HF3O2
reactant | 4-chloroaniline | 16.2 mmol, 2.1 g | ClC1=CC=C(N)C=C1 | C6H6ClN
reactant | 4-(5-methyl-1,3,4-oxadiazol-2-yl)benzonitrile | 16.2 mmol, 3.0 g | CC1=NN=C(O1)C1=CC=C(C#N)C=C1 | C10H7N3O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | 4-[4-(4-Chlorophenyl)-5-methyl-4H-1,2,4-triazol-3-yl]benzonitrile | ClC1=CC=C(C=C1)N1C(=NN=C1C)C1=CC=C(C#N)C=C1 | C16H11ClN4
